US07956066B2
A. 6-[3-(4-Methyl-piperazin-1-yl)-propoxy]-nicotinonitrile.
This compound was prepared by the method described in General Procedure 5 in Example 27 using 3-(4-methyl-piperazin-1-yl)-propan-1-ol (1.0 g, 6.32 mmol), 60% sodium hydride (379 mg, 9.48 mmol), and 6-chloronicotinonitrile (876 mg, 6.32 mmol). The reaction mixture was partitioned between satd. aq. NaHCO3 (30 mL) and CHCl3 (60 mL). The organic layer was dried (Na2SO4), filtered, and concentrated. Purification by Method 1 afforded 776 mg (47%) of a beige solid. MS (ESI): mass calcd for C14H20N4O, 260.16; m/z found, 261.3 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.47 (dd, J=2.3, 0.8, 1H), 7.77 (dd, J=8.6, 2.3, 1H), 6.80 (dd, J=8.6, 0.8, 1H), 4.41 (t, J=6.6, 2H), 2.76-2.35 (m, 10H), 2.29 (s, 3H), 2.01-1.95 (m, 2H).

reactant | 3-(4-methyl-piperazin-1-yl)-propan-1-ol | 6.32 mmol, 1.0 g | CN1CCN(CC1)CCCO | C8H18N2O
reactant | sodium hydride | 9.48 mmol, 379 mg | [H-].[Na+]
reactant | 6-chloronicotinonitrile | 6.32 mmol, 876 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 6-[3-(4-Methyl-piperazin-1-yl)-propoxy]-nicotinonitrile | 776 mg, 47% | CN1CCN(CC1)CCCOC1=NC=C(C#N)C=C1 | C14H20N4O
